US04710502
2-Amino-5-bromo-N-[3-(1H-imidazol-1-yl)propyl]benzamide
A mixture of 9.68 g of 5-bromoisatoic anhydride, 5.0 g of 1H-imidazol-1-propanamine and 75 ml of ethanol was stirred at room temperature for 20 hours and concentrated. The residue was washed onto a filter with ethanol and washed with ether for the desired product, mp 154°-156° C.

reactant | 5-bromoisatoic anhydride | 9.68 g | BrC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4BrNO3
reactant | 1H-imidazol-1-propanamine | 5.0 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-Amino-5-bromo-N-[3-(1H-imidazol-1-yl)propyl]benzamide | NC1=C(C(=O)NCCCN2C=NC=C2)C=C(C=C1)Br | C13H15BrN4O
